US07902226B2
7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-8-cyano-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of ethyl 8-cyano-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate (250 mg, 0.785 mmol), 3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidine (267 mg, 1.18 mmol), 1,4-diazabicyclo[2.2.2]octane (132 mg, 1.18 mmol), and dimethyl sulfoxide (13 ml) was stirred for 2 hours at room temperature under a nitrogen-replaced atmosphere. After evaporating the solvent, the residue was partitioned in chloroform (30 ml) and 10% aqueous citric acid solution (30 ml), and the organic layer was separated. The organic layer obtained was dried over anhydrous sodium sulfate, and after removing the drying agent by filtration, the solvent was evaporated under a reduced pressure. The residue was dissolved in concentrated hydrochloric acid (4 ml) and glacial acetic acid (4 ml) at room temperature and then stirred for 12 hours while heating in an oil bath at 110° C. After evaporating the solvent, concentrated hydrochloric acid (2 ml) and water (20 ml) were added, and the solution was transferred into a separation funnel and then washed with chloroform (50 ml). 10 mol/l Aqueous sodium hydroxide solution was then added to the aqueous layer after washing, thereby adjusting the pH to >12. Then after washing with chloroform (50 ml), the pH was adjusted to 8.3 by adding concentrated hydrochloric acid and 1 mol/l hydrochloric acid. The aqueous layer obtained was then concentrated to 5 ml under a reduced pressure, subject to extraction into chloroform:methanol=10:1 (50 ml×3), and the combined organic layer was dried over anhydrous sodium sulfate. After removing the drying agent by filtration, the solvent was evaporated under a reduced pressure. The yellow solids thus obtained were recrystallized in ethanol and then dried under a reduced pressure to obtain 124 mg (40%) of the title compound as a yellow powder.

reactant | ethyl 8-cyano-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.785 mmol, 250 mg | C(#N)C=1C(=CC=C2C(C(=CN(C12)[C@H]1[C@H](C1)F)C(=O)OCC)=O)F | C16H12F2N2O3
reactant | 3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidine | 1.18 mmol, 267 mg | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CNCC1 | C12H22N2O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 1.18 mmol, 132 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | dimethyl sulfoxide | 13 ml | CS(=O)C | C2H6OS
product | 7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-8-cyano-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 124 mg, 40% | NC1(CC1)[C@H]1CN(CC1)C1=CC=C2C(C(=CN(C2=C1C#N)[C@H]1[C@H](C1)F)C(=O)O)=O | C21H21FN4O3
